US04263299
(b) 1-[3-(4-Benzyloxycoumarin-7-yloxy)-2-hydroxypropyl]4-(4-chlorobenzyl)piperazine
A mixture of 4-benzyloxy-7-(2,3-epoxypropyloxy)coumarin (8.48 g; 0.026 mole), 1-(4-chlorobenzyl)piperazine (6.20 g; 0.0295 mole) and ethanol (50 ml) were refluxed together for 90 mins and allowed to cool. Evaporation of the solvent in vacuo gave an oily residue which crystallized on trituration with petrol ether. Recrystallization from methanol gave 8.67 g (62%) of title compound of m.p. 130°-133° C., νmax (mull) 1720, 1615 cm-1 ; δ (CDCl3) 2.55 (10H, m); 3.20 (1H, m); 3.48 (2H, s); 4.07 (3H broad s); 5.20 (2H, s); 5.68 (1H, s); 6.89 (2H, m); 7.30 (4H, s); 7.45 (5H, s); 7.77 (1H, d, J 10 Hz). (Found: C, 67.72; H, 6.00; N, 5.29; Cl, 7.21; C30H31N2ClO5 requires; C, 67.34; H, 5.84; N, 5.24; Cl, 6.63%).

reactant | 4-benzyloxy-7-(2,3-epoxypropyloxy)coumarin | 0.026 mole, 8.48 g | C(C1=CC=CC=C1)OC1=CC(OC2=CC(=CC=C12)OCC1CO1)=O | C19H16O5
reactant | 1-(4-chlorobenzyl)piperazine | 0.0295 mole, 6.20 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[3-(4-Benzyloxycoumarin-7-yloxy)-2-hydroxypropyl]4-(4-chlorobenzyl)piperazine | 8.67 g, 62% | C(C1=CC=CC=C1)OC1=CC(OC2=CC(=CC=C12)OCC(CN1CCN(CC1)CC1=CC=C(C=C1)Cl)O)=O | C30H31ClN2O5
